US08614234B2
A mixture of 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid (50 mg, 0.11 mmol), ethylene glycol (1 ml), 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC.HCl, 25 mg, 0.13 mmol) and 4-dimethylaminopyridine (DMAP, 5 mg, 0.04 mmol) in anhydrous THF (10 ml) was stirred at 60° C. for 16 hours. The mixture was poured into 100 ml of water. 2M HCl was added dropwise until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give the crude, which was purified by silica gel chromatography with a gradient of 3˜5% MeOH/CHCl3 to give 2-hydroxyethyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate as white solid. Yield: 36 mg, 67%.

reactant | 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid | 0.11 mmol, 50 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=C1 | C24H19FN4O4
reactant | ethylene glycol | 1 ml | C(CO)O | C2H6O2
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.13 mmol, 25 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | HCl | 2M | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.04 mmol, 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-hydroxyethyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OCCO)C=C1 | C26H23FN4O5
